US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(3-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg), 3-amino-1-propanol (75 mg) and triethylamine (200 mg) were added to pyridine (350 mg), and the mixture was stirred at 45° C. for 43 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Concentrated hydrochloric acid (120 mg) was added to the residue, and the mixture was concentrated under reduced pressure. Ethanol (1 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (80 mg) as a colorless powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | 3-amino-1-propanol | 75 mg | NCCCO | C3H9NO
reactant | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 350 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(3-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 80 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCCCO)F)=O)C(=O)O)F)F | C19H15ClF3N3O4
